US08629302B2
Preparation of Emodin Anthrone
A mixture of 20 grams of emodin, 1000 mL of acetic acid, 82.8 grams of stannous chloride was heated to reflux. Hydrochloric acid (60 mL) was added slowly in minutes and continued reflux for 1 hour. Remaining 167 mL of HCl was added slowly at reflux and continued for an additional 1 hour. Orange color mixture was cooled to room temperature and left over night. Product was isolated by filtration and washed with water. Finally the product (emodin anthrone) was dried in vacuo at 60° C. to a constant weight to afford 18.1 grams (Yield: 95%) of an orange powder.

reactant | emodin | 20 grams | CC1=CC2=C(C(=C1)O)C(=O)C3=C(C=C(C=C3O)O)C2=O | C15H10O5
reactant | Hydrochloric acid | 60 mL | Cl | ClH
reactant | HCl | 167 mL | Cl | ClH
solvent | acetic acid | 1000 mL | C(C)(=O)O | C2H4O2
product | Emodin Anthrone | 18.1 grams, Yield: 95% | CC1=CC2=C(C(=C1)O)C(=O)C3=C(C=C(C=C3O)O)C2 | C15H12O4
